US04631194
Preparation of Ethyl-3-(Propylthio)Butyrate
Into a 500 ml one neck flask equipped with reflux condenser, spin bar, and hot plate containing a built in magnetic stirrer, cooling bath and ultra-violet light source are placed 17.9 grams (0.157 moles) of ethyl crotonate and 12 grams (0.158 moles) of n-propyl mercaptan with stirring and maintaining the temperature at 30° C., the reaction mass is stirred after turning the ultra-violet light on. The reaction mass is continued to be stirred for a period of 8 hours. At the end of the 8 hour period, the ultra-violet light was turned off and the reaction mass is transferred to a distillation flask and distilled on a micro Vigreux column yielding the following fractions:

reactant | ethyl crotonate | 0.157 moles, 17.9 grams | C(\C=C\C)(=O)OCC | C6H10O2
reactant | n-propyl mercaptan | 0.158 moles, 12 grams | C(CC)S | C3H8S
product | Ethyl-3-(Propylthio)Butyrate | C(C)OC(CC(C)SCCC)=O | C9H18O2S
